* Z:\home\joaquin\Escritorio\TC2\Tc2 GitHub\TC2\W7\TS4\Draft1.asc
R1 N003 N002 {R}
R2 N007 N004 {R}
C1 N006 N007 {C}
C2 N004 N003 {C}
C3 Vo N001 {C}
R3 Vo 0 {R}
R4 N005 N006 {R}
R5 N008 N005 {R}
R6 N008 0 {R}
XU1 N006 N004 N005 opamp Aol=100K GBW=10Meg
XU2 N006 N008 N007 opamp Aol=100K GBW=10Meg
XU3 N001 N004 N001 opamp Aol=100K GBW=10Meg
V1 N002 0 AC 1 0
.lib opamp.sub
.ac dec 1000 1k 500k
.param R=1k
.param C=5n
.backanno
.end
