* Z:\home\joaquin\Escritorio\TC2\Tc2 GitHub\TC2\W7\TS4\pasivo.asc
R1 N004 N003 1k
R2 0 N002 1k
C1 N005 N004 5n
C2 N002 N001 5n
L1 N005 0 0.005
XU1 N001 N005 N001 opamp Aol=100K GBW=10Meg
V1 N003 0 AC 1 0
.lib opamp.sub
.ac dec 100 1k 500k
.backanno
.end
