* C:\users\joaquin\Escritorio\TC2\W16\TS12\sim\TS12E1.asc
R1 N001 0 5
R2 N002 N001 2
R3 N003 N002 10
R4 0 N003 1
C1 N003 N002 {C1}
C2 N002 N001 {C2}
I1 0 N001 AC 1 0
.param Ww = 2*pi
.param C1 = 1/10/Ww C2 = 1/8/Ww
.ac dec 1000 0.01 1000
.net I(R4) I1
.backanno
.end
