* C:\users\joaquin\Escritorio\TC2\W16\TS12\sim\TS12_E2.asc
C1 0 N001 {C1}
C2 Vo N001 {C}
C3 Vo 0 {C3}
L1 N001 Vo {L2}
R1 Vo 0 1
I1 0 N001 AC 1 0
.param C1=27/17/Ww C=27/289/Ww L2=289/243/Ww C3=7/17/Ww
.param Ww = 2*pi
.ac dec 100 0.01 100
.backanno
.end
